US05364912
A. Synthesis of 4,4'-Dimethylbenzanilide
p-Methylbenzoic acid (95.31 grams, 0.70 mole), sodium ethoxide catalyst (0.2144 gram, 0.225% wt. of the p-methylbenzoic acid used) and N,N'-dimethylacetamide (575 grams) are added to a reactor equipped with a reflux condenser and stirred under a nitrogen atmosphere at 35° C. to provide a solution. p-Methylphenyl isocyanate (97.87 grams, 0.735 mole) is added over a two minute period inducing an exotherm to 40° C. At this time, heating of the reactor commences and a 160° C. temperature is achieved 52 minutes later. After three hours at the 160° C. reaction temperature, the reactor is cooled to 30° C. the the contents poured into deionized water (3.50 liters). A precipitated white crystalline product is recovered by filtration of the aqueous slurry then dried in a vacuum oven at 80° C. and 5 mm Hg for fifteen hours. The dry product and methanol (700 milliliters) are stirred together with heating to provide a solution at 63° C. After cooling the methanol solution to 4° C. for fourteen hours, a white crystalline product is filtered off and dried at 70° C. and 5 mm Hg in a vacuum oven to a constant weight of 135.6 grams. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of the product confirms the product structure of 4,4'-dimethylbenzanilide (amide carbonyl absorbance at 1649 cm-1 and amide N--H stretching absorbance at 3349 and 3290 (shoulder) cm-1.

reactant | p-Methylbenzoic acid | 0.70 mole, 95.31 grams | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | p-Methylphenyl isocyanate | 0.735 mole, 97.87 grams | CC1=CC=C(C=C1)N=C=O | C8H7NO
reactant | water | 3.50 liters | O | H2O
catalyst | sodium ethoxide | [O-]CC.[Na+]
solvent | methanol | CO | CH4O
product | 4,4'-Dimethylbenzanilide | CC1=CC=C(C(=O)NC2=CC=C(C=C2)C)C=C1 | C15H15NO
